US08735588B2
Step A: Preparation of 2-chloro-5-ethylbenzenesulfonyl chloride
Chlorosulfonic acid (4.0 mL, 59 mmol) was cooled to 0° C. and 1-chloro-4-ethylbenzene (1.0 mL, 7.5 mmol) was added dropwise over 30 min. The reaction mixture was stirred for 45 min at 0° C., poured with stirring onto 125 mL of crushed ice, and then extracted with ethyl acetate (2×100 mL). The ethyl acetate layers were combined, washed with water (100 mL), and dried over magnesium sulfate. The ethyl acetate was concentrated under reduced pressure to obtain an oil determined to be approximately a 1:1 mixture of isomers. This mixture was chromatographed on silica gel eluting with a hexane/ethyl acetate gradient to afford 0.41 g of the title compound. 1H NMR (CDCl3) δ 7.97 (s, 1H), 7.53 (d, 1H), 7.49 (d, 1H), 2.75 (q, 2H), 1.29 (t, 3H).

reactant | Chlorosulfonic acid | 59 mmol, 4.0 mL | ClS(=O)(=O)O | ClHO3S
reactant | 1-chloro-4-ethylbenzene | 7.5 mmol, 1.0 mL | ClC1=CC=C(C=C1)CC | C8H9Cl
product | 2-chloro-5-ethylbenzenesulfonyl chloride | 0.41 g | ClC1=C(C=C(C=C1)CC)S(=O)(=O)Cl | C8H8Cl2O2S
